US05143918
The reaction of 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(3"-hydroxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone with o-nitrobenzenesulfonyl chloride as in Example 34 yields 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(3"-o-nitrobenzenesulfonyloxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone

reactant | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(3"-hydroxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]-octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC)O)C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C52H89NO12Si
reactant | o-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | 17-ethyl-1-hydroxy-14-triisopropylsilyloxy-12-[2'-(3"-o-nitrobenzenesulfonyloxy-4"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC)OS(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-])C)C)O[Si](C(C)C)(C(C)C)C(C)C)=O | C58H92N2O16SSi
